US04012380
Benzhydryl 7-(2-thienylacetamido)-7-methoxy-3-acetyl-2-cephem-4-carboxylate.
To a solution of 0.154 g. of benzhydryl 7-(2-thienylacetamido)-7-methoxy-3-(1-hydroxyethyl)-2-cephem-4-carboxylate in 40 ml. of acetone was added 1.5 eq. of chromic acid. After stirring the mixture at room temperature for 10 minutes, 2 ml. of isopropanol was added. After stirring for an additional 5 minutes, the reaction mixture was evaporated in vacuo to dryness. The residue was dissolved in an ethyl acetate/water slurry. The organic layer was separated, washed successively with water (2X), aqueous sodium bicarbonate solution, 1N.HCl, and brine and dried over anhydrous sodium sulfate. Evaporation in vacuo to dryness provided product which was chromatographed on 5.0 g. of silica gel using a toluene-ethyl acetate gradient to give 0.073 g. (47.8 percent) of the title product as a white froth:

reactant | benzhydryl 7-(2-thienylacetamido)-7-methoxy-3-(1-hydroxyethyl)-2-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1([C@@H]2N(C(C(=CS2)C(C)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)OC | C29H28N2O6S2
reactant | acetone | CC(=O)C | C3H6O
reactant | chromic acid | 1.5 eq. | [Cr](=O)(=O)(O)O
solvent | isopropanol | C(C)(C)O | C3H8O
product | Benzhydryl 7-(2-thienylacetamido)-7-methoxy-3-acetyl-2-cephem-4-carboxylate | 47.8 percent | S1C(=CC=C1)CC(=O)NC1([C@@H]2N(C(C(=CS2)C(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)OC | C29H26N2O6S2
